US09388161B2
Triethylamine (0.07 mL, 0.54 mmol) and N,N-dimethylpyridin-4-amine (6.1 mg, 0.049 mmol) were added to a solution of (S)-tert-butyl 4-(4-(1-acetyl-5-hydroxy-2-methyl-1,2,3,4-tetrahydroquinolin-6-yl)-1H-pyrazol-1-yl)piperidine-1-carboxylate (225 mg, 0.495 mmol) in dichloromethane (4.5 mL). The reaction solution was cooled to 0° C. and N-(5-chloropyridin-2-yl)-1,1,1-trifluoro-N-((trifluoromethyl)sulfonyl)methanesulfonamide (214 mg, 0.544 mmol) was added dropwise (clear solution turns a light yellow orange color). The reaction mixture was then slowly warmed back up to room temperature and allowed to stir for 2 hours. The reaction solution was purified directly via column chromatography on silica gel (Biotage 25 g column, gradient elution with 0-4% MeOH in dichloromethane) to afford tert-butyl (S)-4-(4-(1-acetyl-2-methyl-5-(((trifluoromethyl)sulfonyl)oxy)-1,2,3,4-tetrahydroquinolin-6-yl)-1H-pyrazol-1-yl)piperidine-1-carboxylate (290 mg, 100%) as a white solid. MS (ESI, pos. ion) m/z 587 [M+H]+.

reactant | Triethylamine | 0.54 mmol, 0.07 mL | C(C)N(CC)CC | C6H15N
reactant | (S)-tert-butyl 4-(4-(1-acetyl-5-hydroxy-2-methyl-1,2,3,4-tetrahydroquinolin-6-yl)-1H-pyrazol-1-yl)piperidine-1-carboxylate | 0.495 mmol, 225 mg | C(C)(=O)N1[C@H](CCC2=C(C(=CC=C12)C=1C=NN(C1)C1CCN(CC1)C(=O)OC(C)(C)C)O)C | C25H34N4O4
reactant | N-(5-chloropyridin-2-yl)-1,1,1-trifluoro-N-((trifluoromethyl)sulfonyl)methanesulfonamide | 0.544 mmol, 214 mg | ClC=1C=CC(=NC1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C7H3ClF6N2O4S2
catalyst | N,N-dimethylpyridin-4-amine | 0.049 mmol, 6.1 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 4.5 mL | ClCCl | CH2Cl2
product | tert-butyl (S)-4-(4-(1-acetyl-2-methyl-5-(((trifluoromethyl)sulfonyl)oxy)-1,2,3,4-tetrahydroquinolin-6-yl)-1H-pyrazol-1-yl)piperidine-1-carboxylate | 290 mg, 100% | C(C)(=O)N1[C@H](CCC2=C(C(=CC=C12)C=1C=NN(C1)C1CCN(CC1)C(=O)OC(C)(C)C)OS(=O)(=O)C(F)(F)F)C | C26H33F3N4O6S
